* D:\Dateien\Git\AEL24-RefDesign\LT-Spice\Diamond buffer.asc
V2 N001 0 12
V1 N003 0 SINE(0 1 1000 0) AC 1. Rser=0
Q1 N001 N002 N006 0 BC550CH
Q2 0 N007 N006 0 BC560CH
R1 N001 N002 2k
R2 N007 0 2k
Q3 0 N005 N002 0 BC560CH
Q4 N001 N005 N007 0 BC550CH
C1 N005 N004 100n
R3 N001 N005 2Meg
R4 N005 0 2Meg
C2 out N006 100µ
R5 out 0 1k
R6 N003 0 2Meg
C3 N004 0 2n2
R7 N004 N003 47
.model NPN NPN
.model PNP PNP
.lib C:\Users\Tobias\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 11m 1m 100n
* .TEMP -10
* .noise V(out) V1 oct 101 1 1g
* .ac oct 101 1 100g
.backanno
.end
